US07268232B2
4-(2-Methylpiperidin-1-yl)naphthalene-1-carbonitrile (165RL62)
1-Cyano-4-fluoronaphthalene (100 mg, 0.58 mmol), 2-methylpiperidine (0.28 mL, 2.3 mmol) and DBU (0.01 mL, 59 μmol) were dissolved in pyridine (2 mL) and stirred at 60° C. for 3 days. The temperature was raised to 110° C. and the stirring was continued for 10 days. The reaction was worked up in the same way as for 198RL60. The crude compound was purified by preparative TLC followed by preparative HPLC to give the title compound (27.4 mg, 19%) as a colourless oil, which was stored under argon atmosphere.

reactant | 1-Cyano-4-fluoronaphthalene | 0.58 mmol, 100 mg | C(#N)C1=CC=C(C2=CC=CC=C12)F | C11H6FN
reactant | 2-methylpiperidine | 2.3 mmol, 0.28 mL | CC1NCCCC1 | C6H13N
reactant | DBU | 59 μmol, 0.01 mL | C1CCC2=NCCCN2CC1 | C9H16N2
solvent | pyridine | 2 mL | N1=CC=CC=C1 | C5H5N
product | 4-(2-Methylpiperidin-1-yl)naphthalene-1-carbonitrile | 27.4 mg, 19% | CC1N(CCCC1)C1=CC=C(C2=CC=CC=C12)C#N | C17H18N2
